US06605607B1
7-Methanesulphonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of 3-(tert-butyloxycarbonyl)-7-methanesulphonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine (3.8 g, 0.011 mol), trifluoroacetic acid (3.76 g, 0.033 mol) and dichloromethane (50 ml) was heated at 50° C. for 5 h. The solvents were then evaporated in vacuo and the residue partitioned between water (200 ml) and ethyl acetate (150 ml). The aqueous layer was removed and washed with ethyl acetate (100 ml) and then basified to pH 14 with 40% sodium hydroxide. The suspension was then extracted with ethyl acetate (3×150 ml) and the combined organic layers dried (Na2SO4). The solvents were evaporated in vacuo to give the title compound (2.15 g, 80%) as a colourless oil.

reactant | 3-(tert-butyloxycarbonyl)-7-methanesulphonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.011 mol, 3.8 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)OS(=O)(=O)C | C16H23NO5S
reactant | trifluoroacetic acid | 0.033 mol, 3.76 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-Methanesulphonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.15 g, 80% | CS(=O)(=O)OC1=CC2=C(CCNCC2)C=C1 | C11H15NO3S
